US06838463B2
In 3 ml of tetrahydrofuran was suspended 0.08 g of sodium hydride (60% in oil), to which 6-methylthio-4-(α-hydroxylbenzyl)pyrimidine dissolved in 0.3 ml of tetrahydrofuran was added. The mixture was stirred at 0° C. for 15 minutes, to which 0.28 g of iodomethane was added dropwise at room temperature, followed by stirring at the same temperature for 30 minutes. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.17 g of 6-methylthio-4-(α-methoxybenzyl)pyrimidine.

reactant | sodium hydride | 0.08 g | [H-].[Na+]
reactant | 6-methylthio-4-(α-hydroxylbenzyl)pyrimidine | CSC1=CC(=NC=N1)C(C1=CC=CC=C1)O | C12H12N2OS
reactant | iodomethane | 0.28 g | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
product | 6-methylthio-4-(α-methoxybenzyl)pyrimidine | 0.17 g | CSC1=CC(=NC=N1)C(C1=CC=CC=C1)OC | C13H14N2OS
